US05889178
(S)-β-Amino-3-pyridinepropanol dihydrochloride
To a solution of (S)-[1-(hydroxymethyl)-2-(3-pyridinyl)ethyl]carbamic acid 1,1-dimethylethyl ester (1.27 g, 5.03 mmol) in 1,4-dioxan (3 ml) was added 1,4-dioxan saturated with HCl gas (10 ml) followed by a further portion of 1,4-dioxan (10 ml). After 2 h at room temperature the precipitated solid was collected by filtration, washed with 1,4-dioxan (5 ml) and ether then dried in vacuo to give the title compound (0.928 g) as a solid, nmr(δ,DMSO-d6) includes 3.11(bd,2H), 3.4-3.7(m,3H), 7.86(dd,1H), 8.1-8.3(bs,3H), 8.45(d,1H), 8.81(d,1H), 8.9(s,1H).

reactant | (S)-[1-(hydroxymethyl)-2-(3-pyridinyl)ethyl]carbamic acid 1,1-dimethylethyl ester | 5.03 mmol, 1.27 g | CC(C)(C)OC(N[C@@H](CC=1C=NC=CC1)CO)=O | C13H20N2O3
reactant | HCl | 10 ml | Cl | ClH
solvent | 1,4-dioxan | 3 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | (S)-β-Amino-3-pyridinepropanol dihydrochloride | 0.928 g | Cl.Cl.N[C@H](CO)CC=1C=NC=CC1 | InChI=1S/C8H12N2O.2ClH/c9-8(6-11)4-7-2-1-3-10-5-7;;/h1-3,5,8,11H,4,6,9H2;2*1H/t8-;;/m0../s1
